US05134111
(b) Preparation of 1'-benzyloxy-8'-methyl-2'-acetonaphthone
5.5 g of 1'-hydroxy-8'-methyl-2'-acetonaphthone was dissolved in 50 ml of N,N-dimethylformamide, to which 1.7 g of 60% sodium hydride was added, followed by agitation at 50° C. for 10 minutes. The reaction solution was returned to room temperature, in which 5.5 ml of benzyl chloride was dropped, followed by heating again to 70° C. for reaction for 1 hour. After returning to room temperature, water was added to the solution, which was extracted with ethyl acetate. The resultant organic phase was washed with a saturated saline solution, dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The resultant reside was purified by silica gel column chromatography (15% ethyl acetate/hexane) to obtain 4.8 g of the captioned compound as a brown oily substance.

reactant | 1'-hydroxy-8'-methyl-2'-acetonaphthone | 5.5 g | OC1=C(C=CC2=CC=CC(=C12)C)C(C)=O | C13H12O2
reactant | sodium hydride | 1.7 g | [H-].[Na+]
reactant | benzyl chloride | 5.5 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1'-benzyloxy-8'-methyl-2'-acetonaphthone | 4.8 g | C(C1=CC=CC=C1)OC1=C(C=CC2=CC=CC(=C12)C)C(C)=O | C20H18O2
